US08440662B2
Step 8: N,N-Dimethyl-4-(3-{4-[4-morpholin-4-yl-7-pyrimidin-5-yl-quinazolin-2-yl)-phenyl]-ureido}-benzamide
To a 50 mL round bottom flask, 2-chloro-4-morpholin-4-yl-7-pyrimidin-5-yl-quinazoline (150 mg, 0.00046 mol), N,N-Dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide (168 mg, 0.00041 mol), cesium carbonate (300 mg, 0.00092 mol), DMF (10 mL) and water (3 mL) were added. The reaction mixture was degassed with N2 for 5-10 min. To the same reaction flask, Pd(PPh3)2Cl2 (16 mg, 0.000023 mol) was added and again degassed with N2 for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 4% MeOH in chloroform) followed by preparative TLC (10% MeOH in chloroform) to yield the title compound [30 mg, 11%]. 1H NMR (400 MHz, DMSO-d6): δ 9.36 (s, 2H), 9.29 (s, 1H), 9.05 (s, 1H), 8.98 (s, 1H), 8.46 (d, J=8.8 Hz, 2H), 8.31 (d, J=2.0 Hz, 1H), 8.17 (d, J=8.8 Hz, 1H), 7.93 (dd, J′=8.4 Hz, J″=1.6 Hz, 1H), 7.64 (d, J=8.8 Hz, 2H), 7.53 (d, J=8.8 Hz, 2H), 7.38 (d, J=8.4 Hz, 2H), 3.87 (s, 8H), 2.96 (s, 6H); LC-MS (ESI): Calculated mass: 574.2; Observed mass: 575.1 [M+H]+ (RT: 0.26 min).

reactant | 2-chloro-4-morpholin-4-yl-7-pyrimidin-5-yl-quinazoline | 0.00046 mol, 150 mg | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C=1C=NC=NC1 | C16H14ClN5O
reactant | N,N-Dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide | 0.00041 mol, 168 mg | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C22H28BN3O4
reactant | cesium carbonate | 0.00092 mol, 300 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.000023 mol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 mL | O | H2O
product | N,N-Dimethyl-4-(3-{4-[4-morpholin-4-yl-7-pyrimidin-5-yl-quinazolin-2-yl)-phenyl]-ureido}-benzamide | 30 mg, 11% | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C=1C=NC=NC1)=O)C | C32H30N8O3
